US06706751B2
240 mg (0.55 mmol) 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester and 260 μl (2.7 mmol) N-allylmethylamine were stirred in 5 ml DMF at RT for 3 h. The mixture was extracted with ether and water, the organic phase was washed with water and dried over Na2SO4. Purification by column chromatography on silica gel with CH2Cl2/MeOH 9:1 yielded 154 mg (66%) 6-[4-(Allyl-methyl-amino)-butoxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester as colorless oil, MS: 429 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | 0.55 mmol, 240 mg | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCBr | C20H21BrClNO3
reactant | N-allylmethylamine | 2.7 mmol, 260 μl | C(C=C)CN | C4H9N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-[4-(Allyl-methyl-amino)-butoxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | 154 mg, 66% | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCN(C)CC=C | C24H29ClN2O3
